US07192968B2
Methyl 5-chloro-6-fluoroindole-2-carboxylate
A mixture of methyl 3-chloro-4-fluoro-α-azidocinnamate (Japanese Patent Application Laid-Open No. 149723/1995) (1.85 g) and xylene (140 ml) was heated under reflux for 1 hour, and the solvent was then distilled off. The residue was purified by column chromatography on silica gel (dichloromethane) to obtain the title compound (491 mg) as colorless powder.

reactant | methyl 3-chloro-4-fluoro-α-azidocinnamate | ClC=1C=C(C=C(C(=O)OC)N=[N+]=[N-])C=CC1F | C10H7ClFN3O2
solvent | xylene | 140 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 5-chloro-6-fluoroindole-2-carboxylate | 491 mg | ClC=1C=C2C=C(NC2=CC1F)C(=O)OC | C10H7ClFNO2
